US04351843
2-(4-Chlorophenoxy)-3-carbethoxymethylaminoacrylaldehyde (2 g.) was boiled in 5 ml. of ethylene glycol for 15 minutes. The reaction was cooled to room temperature, diluted with 10 ml. of water and product extracted into 10 ml. of ethyl acetate. The ethyl acetate was back-washed with water and concentrated to an oil (1.5 g.). The oil chromatographed on approximately 100 ml. of silica gel with ethyl acetate-1/hexane-1 as eluant, monitored by thin layer chromatography. Evaporation of middle fractions gave ethyl 4-(4-chlorophenoxy)pyrrole-2-carboxylate (100 mg., oil, m/e 281, Rf 0.65 on silica gel thin layer chromatography with ethyl acetate-1/hexane-1/5% acetic acid as eluant; Rf 0.3 with ethyl acetate-1/hexane-1 as eluant). Repeat on a 5.5 g. scale gave an additional 400 mg. of product.

reactant | 2-(4-Chlorophenoxy)-3-carbethoxymethylaminoacrylaldehyde | 2 g | ClC1=CC=C(OC(C=O)=CNCC(=O)OCC)C=C1 | C13H14ClNO4
solvent | ethylene glycol | C(CO)O | C2H6O2
product | ethyl 4-(4-chlorophenoxy)pyrrole-2-carboxylate | 100 mg, 1/5% | ClC1=CC=C(OC=2C=C(NC2)C(=O)OCC)C=C1 | C13H12ClNO3
